US05861401
4-Isobutyl-N-(3-methoxy-5-methyl-2-pyrazinyl)-3'-nitro-2-biphenylsulphonamide (0.456 g) was dissolved in methanol/water (1:9 v/v; 10 ml) and the solution was catalytically hydrogenated over 10% Pd-C (0.046 g). The catalyst was removed by filtration through diatomaceous earth and the residue was purified by elution with ethyl acetate/hexane (1:3 v/v) through a silica gel Mega Bond Elut column. The resulting foam was recrystallised from ether to give 3'-amino-4'-isobutyl-N-(3-methoxy-5-methyl-2-pyrazinyl)-2-biphenylsulphonamide (0.14 g), m.p. 160°-162° C.; mass spectrum (+ve FAB, DMSO/methanol/NBA): 427 (M+H)+.

reactant | 4-Isobutyl-N-(3-methoxy-5-methyl-2-pyrazinyl)-3'-nitro-2-biphenylsulphonamide | 0.456 g | C(C(C)C)C=1C=C(C(=CC1)C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)NC1=NC=C(N=C1OC)C | C22H24N4O5S
solvent | methanol water | 10 ml | CO.O
catalyst | Pd-C | 0.046 g | [Pd] | Pd
product | 3'-amino-4'-isobutyl-N-(3-methoxy-5-methyl-2-pyrazinyl)-2-biphenylsulphonamide | 0.14 g | NC=1C=C(C=CC1CC(C)C)C=1C(=CC=CC1)S(=O)(=O)NC1=NC=C(N=C1OC)C | C22H26N4O3S
